US08426402B2
4-(tert-Butoxycarbonylamino)-1-methyl-1H-pyrrole-2-carboxylic acid
Methyl 4-(tert-butoxycarbonylamino)-1-methyl-1H-pyrrole-2-carboxylate (Eldon E. Baird and Peter B. Dervan, J. Am. Chem. Soc. 1996, 118, 6141-6146) (5.0 g, 19.67 mmol) in 120 ml of 1:1 THF/H2O was added 8 g of NaOH in 30 ml of water. The mixture was stirred overnight, concentrated, diluted with water, extracted with EtAc/Hexane (1:1). The aqueous solution was adjusted to pH 4.0 with 20% H3PO4 and extracted with EtAc (4×60 ml). The organic solutions were combined, dried over MgSO4, filtered, evaporated and crystallized with ethanol/EtAc/Hexane to afford 3.81 g (81%) of the title product. 1H NMR (CD3OD) 12.79 (s, 1H), 10.48 (br, 1H), 7.51 (s, 1H), 6.99 (s, 1H), 3.78 (s, 3H), 1.49 (s, 9H); 13C NMR 158.47, 153.82, 123.64, 121.56, 109.58, 79.52, 37.06, 28.42; MS m/z− 239.2 (M−H).

reactant | Methyl 4-(tert-butoxycarbonylamino)-1-methyl-1H-pyrrole-2-carboxylate | 19.67 mmol, 5.0 g | C(C)(C)(C)OC(=O)NC=1C=C(N(C1)C)C(=O)OC | C12H18N2O4
reactant | NaOH | 8 g | [OH-].[Na+]
solvent | THF H2O | 120 ml | C1CCOC1.O
solvent | water | 30 ml | O | H2O
product | 4-(tert-Butoxycarbonylamino)-1-methyl-1H-pyrrole-2-carboxylic acid | 3.81 g, 81% | C(C)(C)(C)OC(=O)NC=1C=C(N(C1)C)C(=O)O | C11H16N2O4
